US06130232
(2) Synthesis of N-[1-(4-hydroxymethyl-2-pyridylmethyl)piperidin-4-yl]-2-cyclopentyl-2-hydroxy-2-phenylacetamide
To a solution of 92 mg of N-[1-(4-ethoxycarbonyl-2-pyridylmethyl)piperidin-4-yl]-2-cyclopentyl-2-hydroxy-2-phenylacetamide in 2 ml of tetrahydrofuran, 15 mg of aluminium lithium hydride was added at 0° C., followed by 2 hours' stirring at room temperature. To the reaction mixture 30 μl of 3N sodium hydroxide solution and anhydrous sodium sulfate were added, and the mixture was filtered with celite. Distilling the solvent off under reduced pressure, the residue was purified by preparative thin layer chromatography [Kieselgel™ 60F254, Art 5744 (Merck), chloroform/methanol=10/1] to give 36 mg of the title compound as a colorless oily substance.

reactant | N-[1-(4-ethoxycarbonyl-2-pyridylmethyl)piperidin-4-yl]-2-cyclopentyl-2-hydroxy-2-phenylacetamide | 92 mg | C(C)OC(=O)C1=CC(=NC=C1)CN1CCC(CC1)NC(C(C1=CC=CC=C1)(O)C1CCCC1)=O | C27H35N3O4
reactant | aluminium lithium hydride | 15 mg | [H-].[Li+].[Al+3].[H-].[H-].[H-]
reactant | sodium hydroxide | 3N, 30 μl | [OH-].[Na+]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | N-[1-(4-hydroxymethyl-2-pyridylmethyl)piperidin-4-yl]-2-cyclopentyl-2-hydroxy-2-phenylacetamide | 36 mg | OCC1=CC(=NC=C1)CN1CCC(CC1)NC(C(C1=CC=CC=C1)(O)C1CCCC1)=O | C25H33N3O3
